US07238707B2
Analogously to Example 1, 160 mg of 2-cyclohexylmethyl-4-methyl-4-phenyl-1,2-pentanediol is reacted with 342 mg of pyridine-sulfur trioxide complex, 1.95 ml of DMSO and 0.39 ml of triethylamine to form 2-cyclohexylmethyl-2-hydroxy-4-methyl-4-phenylpentanal ('H-NMR (CDCl3); δ=0.90-1.60 (m, 10H), 1.30 (s, 3H), 1.41 (s, 3H), 1.76 (m, 2H), 1.95 (m, 1H), 2.20 (d, 1H), 2.35 (d, 1H), 2.97 (s, 1H), 7.20 (m, 1H), 7.30 (m, 4H), 8.76 (s, 1H)). The crude product is reacted with 137 mg of 5-aminoquinoline and 524 mg of sodium triacetoxy borohydride to form imine (180 mg; 'H-NMR (CDCl3); δ=0.90-1.90 (m, 18H), 2.25 (m, 1H), 2.80 (d, 1H), 3.00 (d, 1 H), 3.76 (t, 1H), 5.06 (d, 1H), 6.25 (d, 1H), 7.10-7.55 (m, 8H), 8.25 (d, 1H), 8.87 (dd, 1H); MS (ESI), 415). Reductive amination with 49 mg of sodium borohydride yields 130 mg of end product after column chromatography.

reactant | 2-cyclohexylmethyl-4-methyl-4-phenyl-1,2-pentanediol | 160 mg | C1(CCCCC1)CC(CO)(CC(C)(C1=CC=CC=C1)C)O | C19H30O2
reactant | DMSO | 1.95 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
product | 2-cyclohexylmethyl-2-hydroxy-4-methyl-4-phenylpentanal | C1(CCCCC1)CC(C=O)(CC(C)(C1=CC=CC=C1)C)O | C19H28O2
